resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.002359
R2 0 n2 1.019531
R3 0 n4 1.017143
R4 n1 n3 0.996093
R5 n1 n5 0.980813
R6 n2 n3 0.996072
R7 n2 n6 1.008733
R8 n3 n7 0.995685
R9 n4 n5 0.998115
R10 n4 n6 1.017599
R11 n5 n7 0.056619
R12 n6 n7 1.00369
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
